US09193139B2
1,1′-((ethane-1,2-diylbis(oxy))bis(ethane-2,1-diyl))bis(1H-pyrrole-2,5-dione) (denoted M4)
The general procedure was carried out using maleic anhydride (13.23 g, 135 mmol), 2,2′-(ethylenedioxy)bis(ethylamine) (10.0 g, 67.5 mmol), sodium acetate (1.11 g, 13.5 mmol), and acetic anhydride (15.15 g, 148 mmol). The resulting compound was purified by column chromatography (95:5 DCM:EtOAc), and the product obtained as a white solid (4.5 g/22%).

reactant | maleic anhydride | 135 mmol, 13.23 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2,2′-(ethylenedioxy)bis(ethylamine) | 67.5 mmol, 10.0 g | C(OCCN)COCCN | C6H16N2O2
reactant | sodium acetate | 13.5 mmol, 1.11 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 148 mmol, 15.15 g | C(C)(=O)OC(C)=O | C4H6O3
product | 1,1′-((ethane-1,2-diylbis(oxy))bis(ethane-2,1-diyl))bis(1H-pyrrole-2,5-dione) | C(COCCN1C(C=CC1=O)=O)OCCN1C(C=CC1=O)=O | C14H16N2O6
